US08420823B2
2-Methoxy-N-(3-methoxypyridin-2-yl)-5-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 92 but using 2-methoxy-5-(piperidin-1-ylsulfonyl)benzoic acid and 3-methoxypyridine-2-amine as the starting materials.

reactant | 2-methoxy-5-(piperidin-1-ylsulfonyl)benzoic acid | COC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CCCCC1 | C13H17NO5S
reactant | 3-methoxypyridine-2-amine | COC=1C(=NC=CC1)N | C6H8N2O
product | 2-Methoxy-N-(3-methoxypyridin-2-yl)-5-(piperidin-1-ylsulfonyl)benzamide | COC1=C(C(=O)NC2=NC=CC=C2OC)C=C(C=C1)S(=O)(=O)N1CCCCC1 | C19H23N3O5S
